US08871753B2
Step E: tert-Butyl [5-(2-{5-amino-2-[(tert-butoxycarbonyl)amino]phenyl}ethyl)pyridin-3-yl]carbamate
To a solution of tert-butyl [5-({5-amino-2-[(tert-butoxycarbonyl)amino]phenyl}ethynyl)pyridin-3-yl]carbamate (1.50 g, 3.53 mmol) in methanol (30 mL) was added 10% palladium on carbon (150 mg, 0.141 mmol), and the mixture was hydrogenated under 25 psi of H2 for 2 hours with shaking. The solution was filtered through a pad of celite, and filtrate was concentrated. The residue was purified by flash column chromatography to give the desired product (1.40 g, 92%). LCMS calculated for C23H33N4O4(M+H)+: m/z=429.1.

reactant | tert-butyl [5-({5-amino-2-[(tert-butoxycarbonyl)amino]phenyl}ethynyl)pyridin-3-yl]carbamate | 3.53 mmol, 1.50 g | NC=1C=CC(=C(C1)C#CC=1C=C(C=NC1)NC(OC(C)(C)C)=O)NC(=O)OC(C)(C)C | C23H28N4O4
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium on carbon | 0.141 mmol, 150 mg | [Pd] | Pd
product | tert-Butyl [5-(2-{5-amino-2-[(tert-butoxycarbonyl)amino]phenyl}ethyl)pyridin-3-yl]carbamate | 1.40 g, 92% | NC=1C=CC(=C(C1)CCC=1C=C(C=NC1)NC(OC(C)(C)C)=O)NC(=O)OC(C)(C)C | C23H32N4O4
